*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-02[uF]/100[V]
* Murata P/N :GCM21B5C2A223JE02
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2A223JE02 Port1 Port2
C01 Port1 N01 2.21e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.32e-11
R03 N02 N03 3.14e-03
L04 N03 N04 1.59e-10
R04 N03 N04 1.73e-01
L05 N04 N05 5.81e-11
R05 N04 N05 3.41e-03
C06 N05 N06 5.16e-08
L06 N05 N06 7.00e-11
R06 N05 N06 2.70e-01
C07 N06 N07 3.75e-08
L07 N06 N07 4.09e-11
R07 N06 N07 2.64e-01
C08 N07 N08 9.41e-08
L08 N07 N08 7.62e-12
R08 N07 N08 6.57e-02
C09 N08 N09 1.05e-07
L09 N08 N09 4.66e-12
R09 N08 N09 1.07e-01
C10 N09 N10 1.83e-11
L10 N09 N10 1.02e-11
R10 N09 N10 2.90e-01
C11 N10 Port2 6.69e-13
L11 N10 Port2 2.76e-10
R11 N10 Port2 1.00e+05
.ENDS GCM21B5C2A223JE02
